US06242474B1
N,N′-carbonyldiimidazole (0.776 g) was added to a mixture of 0.85 g of 3-(N-methyl-2,4-dichlorobenzylamino)-4-nitrobenzoic acid and 10 ml N,N-dimethylformamide at room temperature, and the mixture was stirred for 1 hour. 1-Pentanesulfonamide (0.724 g) and 1,8-diazabicyclo[5.4.0]undec-7-ene (0.729 g) were then added thereto, and the resulting mixture was stirred at 100° C. for 21 hours. The mixture was concentrated, and the resulting residue was dissolved in ethyl acetate. The organic layer was washed with water, concentrated, and purified by silica-gel column chromatography (eluent: a mixture of hexane and ethyl acetate at a ratio of 1:1 to 0:1). The desired fractions were collected and concentrated. The concentrate was re-dissolved in ethyl acetate, washed twice with diluted hydrochloric acid and subsequently with a solution of sodium hydrogen carbonate. The organic layer was dried and concentrated to give 0.605 g of N-(n-pentanesulfonyl)-3-(N-methy-2,4-dichlorobenzylamino)-4-nitrobenzamide. This product was used immediately in the next reaction step.

reactant | 3-(N-methyl-2,4-dichlorobenzylamino)-4-nitrobenzoic acid | 0.85 g | CN(C=1C=C(C(=O)O)C=CC1[N+](=O)[O-])CC1=C(C=C(C=C1)Cl)Cl | C15H12Cl2N2O4
reactant | 1-Pentanesulfonamide | 0.724 g | C(CCCC)S(=O)(=O)N | C5H13NO2S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.729 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(n-pentanesulfonyl)-3-(N-methy-2,4-dichlorobenzylamino)-4-nitrobenzamide | 0.605 g | C(CCCC)S(=O)(=O)NC(C1=CC(=C(C=C1)[N+](=O)[O-])N(C)CC1=C(C=C(C=C1)Cl)Cl)=O | C20H23Cl2N3O5S
